US06444685B1
N-(2-Hydroxyethyl)-4-{4-[(2R)-2-hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-piperidin-1-yl)-benzenesulfonamide
The title compound was prepared according to the procedure of Example 1 from 0.12 g (0.4 mmol) of Reference Example 30, N-(2-hydroxyethyl)-4-(4-oxo-piperidin-1-yl)-benzenesulfonamide, and 0.12 g (0.5 mmol) of (R)-N-[5-(2-amino-1-hydroxy-ethyl)-2-hydroxy-phenyl}-methanesulfonamide, yielding 0.22 g of an off-white solid; m.p. 78-81° C.; MS (ES) m/z 529.2 (MH+); HRMS (ES) Calcd. for C22H33N4O7S2 (MH+): 529.1785, Found: 529.1779.

reactant | N-(2-hydroxyethyl)-4-(4-oxo-piperidin-1-yl)-benzenesulfonamide | OCCNS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)=O | C13H18N2O4S
reactant | (R)-N-[5-(2-amino-1-hydroxy-ethyl)-2-hydroxy-phenyl}-methanesulfonamide | 0.5 mmol, 0.12 g | NC[C@H](O)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C9H14N2O4S
product | N-(2-Hydroxyethyl)-4-{4-[(2R)-2-hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-piperidin-1-yl)-benzenesulfonamide | OCCNS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)NC[C@@H](C1=CC(=C(C=C1)O)NS(=O)(=O)C)O | C22H32N4O7S2
